US07700786B2
Sulfuryl chloride (0.16 g, 1.2 mmol) was added to a solution of N-methyl-5-methyl-3-(4-nitro-2-trifluoromethylphenyloxy)pyrazole-1-carboxamide (0.34 g, 1.0 mmol) in acetic acid (5 ml), and the mixture was stirred at room temperature for 4 hours. After completion of the reaction, the reaction mixture was poured into ice water and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant. The solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/10), to give a white solid of N-methyl-4-chloro-5-methyl-3-(4-nitro-2-trifluoromethylphenyloxy)pyrazole-1-carboxamide (0.27 g, yield: 71.2%). mp: 157-158° C.; 1H-NMR (CDCl3, TMS, ppm): δ 2.66 (s, 3H), 2.96 (d, J=5.0 Hz, 3H), 6.70-6.95 (m, 1H), 7.31 (d, J=9.2 Hz, 1H), 8.41 (dd, J=2.7 and 9.2 Hz, 1H), 8.62 (d, J=2.7 Hz, 1H).

reactant | Sulfuryl chloride | 1.2 mmol, 0.16 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | N-methyl-5-methyl-3-(4-nitro-2-trifluoromethylphenyloxy)pyrazole-1-carboxamide | 1.0 mmol, 0.34 g | CNC(=O)N1N=C(C=C1C)OC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C13H11F3N4O4
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-methyl-4-chloro-5-methyl-3-(4-nitro-2-trifluoromethylphenyloxy)pyrazole-1-carboxamide | 0.27 g, yield: 71.2% | CNC(=O)N1N=C(C(=C1C)Cl)OC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C13H10ClF3N4O4
